* 20.02.2018
* LM5017
* 8-Pin 100-V, 600-mA Constant On-Time Synchronous Buck Regulator
.subckt LM5017 RTN VIN UVLO RON FB VCC BST SW
C1 RON RTN 48p ic=0
A1 N013 N011 RTN RTN RTN idq dq RTN SRFLOP Vhigh=5 Trise=10n
D1 RON dq dch
A2 idq RTN RTN RTN RTN RTN N012 RTN BUF Vhigh=5 Trise=10n Td=130n
A3 N012 RTN RTN RTN N016 RTN N013 RTN AND Vhigh=5 Trise=10n
S1 SW N007 N010 SW mos
S2 RTN SW idq RTN dio
D2 SW N007 dsh
D3 RTN SW dsh
A4 FB RTN RTN RTN RTN N016 RTN RTN SCHMITT Vhigh=5 Trise=50n Vt=1.225 Vh=12m
A5 RON N008 N006 N003 N015 RTN N011 RTN OR Vhigh=5 Trise=10n
V2 VIN N007 0
H1 N017 RTN V2 1
A7 N018 N014 RTN RTN RTN RTN N015 RTN SRFLOP Vhigh=5 Trise=10n
D4 N014 N015 dch
C5 N014 RTN 48p ic=0
B1 RTN N014 I=3m*V(fb)/(V(vin)+10)
A8 FB RTN RTN RTN RTN RTN N008 RTN SCHMITT Vhigh=5 Trise=50n Vt=1.42 Vh=0.2
D5 N010 N009 dsw
R6 BST N010 20k
D6 VCC BST dsh
E1 N009 SW dq RTN 1
A9 UVLO RTN RTN RTN RTN N002 N001 RTN BUF Vhigh=5 Ref=1.225 Trise=10n
G1 RTN UVLO N001 RTN 4u
A6 N017 RTN RTN RTN RTN RTN N018 RTN BUF Vhigh=5 Trise=50n Ref=1.02 Td=130n
B2 N004 RTN V=if(V(vccon)>2.5,if(V(VIN)<8,V(VIN)-0.5,7.5),0)
D7 N004 VCC dvcc
G2 VIN RTN vccon RTN 350u
A10 UVLO RTN RTN RTN RTN N003 vccon RTN SCHMITT Vhigh=5 Vlow=0.15 Vt=0.55 Vh=0.11 Trise=50n
A11 VCC RTN RTN RTN RTN N005 RTN RTN SCHMITT Vhigh=5 Trise=50n Vt=4.35 Vh=0.15m
A12 N002 N005 RTN RTN RTN RTN N006 RTN OR Vhigh=5 Trise=10n
.model dch D(Ron=100 Roff=1g Vfwd=0)
.model mos SW(Ron=1.8 Roff=100k Vt=2.5 Vh=-.5)
.model dio SW(Ron=1 Roff=100k Vt=2.5 Vh=-.5)
.model dsh D(Ron=1 Roff=1meg Vfwd=0.6)
.model dsw D(Ron=1 Roff=1meg Vfwd=0)
.model dvcc D(Ron=10 Roff=1meg Ilimit=50m Vfwd=0)
.end LM5017
